US05373008
Reaction of 2-morpholino-5-trifluoromethylaniline (12 g) with thiophosgene (8.6 g) in dioxan (30 ml) and water (100 ml) at 0° C. for 30 minutes and then at room temperature for 2 hours yielded a residue which was extracted with dichloromethane to give 2-morpholino-5-trifluoromethylphenyl isothiocyanate as a yellow oil.

reactant | 2-morpholino-5-trifluoromethylaniline | 12 g | O1CCN(CC1)C1=C(N)C=C(C=C1)C(F)(F)F | C11H13F3N2O
reactant | thiophosgene | 8.6 g | C(=S)(Cl)Cl | CCl2S
solvent | dioxan | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
product | 2-morpholino-5-trifluoromethylphenyl isothiocyanate | O1CCN(CC1)C1=C(C=C(C=C1)C(F)(F)F)N=C=S | C12H11F3N2OS
